US07157464B2
Synthesis of 2-(3-Amino-4-t-butyl-pyrazol-1-yl)-1-[4-(4-fluorophenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 5-tert-Butyl-1H-pyrazol-3-ylamine, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=3/7:Rf=0.49) afforded the title compound as colorless oil. 1H NMR (400 MHz, CDCl3): 6.92–7.98 (t, 2H), 6.82–6.88 (dd, 2H), 4.84 (s, 2H), 3.95 (s, 2H), 3.70–3.90 (m, 4H), 2.95–3.10 (m, 4H), 1.25 (s, 9H).

reactant | 5-tert-Butyl-1H-pyrazol-3-ylamine | C(C)(C)(C)C1=CC(=NN1)N | C7H13N3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3-Amino-4-t-butyl-pyrazol-1-yl)-1-[4-(4-fluorophenyl)-piperazin-1-yl]-ethanone | NC1=NN(C=C1C(C)(C)C)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C19H26FN5O
